US04692465
2-(3-Chlorophenyl)-1,3-dioxane
The title compound was prepared as a colourless oil, bp 95°-102° C./0.2 mm, from 3-chlorobenzaldehyde (24 g) and 1,3-propanediol (20 g) by an analogous procedure to that described in Example X 1.

reactant | 3-chlorobenzaldehyde | 24 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 1,3-propanediol | 20 g | C(CCO)O | C3H8O2
product | 2-(3-Chlorophenyl)-1,3-dioxane | ClC=1C=C(C=CC1)C1OCCCO1 | C10H11ClO2
